US08008425B2
Synthesis of 3,4-bis(butane-1-sulfonyl)-thiophene
Under a nitrogen atmosphere, 3,4-bis(butane-1-sulfonyl)dihydrothiophene and chloroform were placed in a reaction vessel to dissolve 3,4-bis(butane-1-sulfonyl)-dihydrothiophene in chloroform. To the solution, thionyl chloride (3.0 equivalents) was added, followed by heating under reflux for 36 hours. A disodium hydrogenphosphate/sodium dihydrogenphosphate buffer which had been adjusted to pH 7 was added to the reaction mixture to quench the reaction, and the reaction mixture was extracted with ethyl acetate. The organic layer was washed three times with saturated brine, and was dried over anhydrous sodium sulfate. The solvent was distilled off. The resultant crude product was purified through a silica gel column (hexane:ethyl acetate=2:1) to obtain the reaction product.

reactant | 3,4-bis(butane-1-sulfonyl)dihydrothiophene | C(CCC)S(=O)(=O)C1CSC=C1S(=O)(=O)CCCC | C12H22O4S3
reactant | thionyl chloride | 3.0 equivalents | S(=O)(Cl)Cl | Cl2OS
reactant | disodium hydrogenphosphate sodium dihydrogenphosphate | P(=O)(O)([O-])[O-].[Na+].[Na+].P(=O)(O)(O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3,4-bis(butane-1-sulfonyl)-thiophene | C(CCC)S(=O)(=O)C1=CSC=C1S(=O)(=O)CCCC | C12H20O4S3
